US04461907
2'-Hydroxychalcone (9.0 g) was stirred with ethanol (100 ml) at room temperature whilst sodium borohydride (3.05 g) was added in small portions. After 2 hr. stirring the colourless solution was evaporated to dryness and acetic acid (100 ml) added. Toluene sulphonic acid (1.0 g) was added and the solution was heated on the steam bath for 30 min. The solution was diluted with water and extracted with toluene. The extract was washed with saturated sodium bicarbonate solution, dried over magnesium sulphate, and evaporated. The residue was chromatographed on neutral alumina to yield flav-3-ene (6.3 g) as an oil, identified by its n.m.r. spectrum. The multiplet at 5.8 p.p.m. is characteristic of flav-3-enes.

reactant | 2'-Hydroxychalcone | 9.0 g | OC1=C(C(C=CC2=CC=CC=C2)=O)C=CC=C1 | C15H12O2
reactant | sodium borohydride | 3.05 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | flav-3-ene | 6.3 g | O1C(C=CC2=CC=CC=C12)C1=CC=CC=C1 | C15H12O
